US08114868B2
6-(3-hydroxypropyl)-6-isopropyl-3-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-1,3-oxazinan-2-one
A mixture of 6-(3-hydroxypropyl)-6-isopropyl-3-((S)-1-(4-(4,4,5,5-tetramethyl -1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one (40 mg, 0.092 mmol), 4-iodo-1-methylpyridin-2(1H)-one (20 mg, 0.085 mmol), Pd(PPh3)2Cl2 (6 mg, 0.0085 mmol), and Cs2CO3 (2 N, 0.425 mL, 0.85 mmol) in 1,4-dioxane (2 mL) was refluxed for 3 h under N2. The reaction mixture was treated with EtOAc (20 mL) and water (20 mL), and the organic layer was dried and concentrated in vacuo. The residue was purified by preparative HPLC to give two isomers.

reactant | 6-(3-hydroxypropyl)-6-isopropyl-3-((S)-1-(4-(4,4,5,5-tetramethyl -1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 0.092 mmol, 40 mg | OCCCC1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C(C)C | C24H38BNO5
reactant | 4-iodo-1-methylpyridin-2(1H)-one | 0.085 mmol, 20 mg | IC1=CC(N(C=C1)C)=O | C6H6INO
reactant | Cs2CO3 | 0.85 mmol, 2 N, 0.425 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.0085 mmol, 6 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 20 mL | O | H2O
product | 6-(3-hydroxypropyl)-6-isopropyl-3-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-1,3-oxazinan-2-one | OCCCC1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CC(N(C=C1)C)=O)C(C)C | C24H32N2O4
